US05652363
4-Amino-3-methoxypyridine
A solution of 3-methoxy-4-nitropyridine-N-oxide (17.37 g, 0.102 mol) in MeOH (180 ml) was hydrogenated in a 500 ml Parr bottle at 40° C. and 40 psi for 3 hours using Raney Nickel as catalyst. After filtration of the catalyst and evaporation of the solvent, the residue was chromatographed on silica gel using CH2Cl2 /MeOH/NH4OH (90/10/1) as the eluent to give the title compound. The product was recrystallized from toluene to give 10.8 g (65%) of pure product, m.p. 94°-95° C. The structural assignment is supported by the proton NMR spectrum.

reactant | 3-methoxy-4-nitropyridine-N-oxide | 0.102 mol, 17.37 g | COC=1C=[N+](C=CC1[N+](=O)[O-])[O-] | C6H6N2O4
solvent | MeOH | 180 ml | CO | CH4O
catalyst | Raney Nickel | [Ni] | Ni
product | 4-Amino-3-methoxypyridine | NC1=C(C=NC=C1)OC | C6H8N2O
